US07294616B2
3-Bromopheylurea (10.40 g), 2-thiopheneboronic acid (8.20 g) and palladium tetrakistriphenylphosphine (2.63 g) were added to a flask containing 300 mL of dimethoxyethane and 100 mL of 2.0 M aqueous potassium carbonate under an atmosphere of dry N2. The reaction mixture was heated at 90° C. overnight. The reaction mixture was then cooled to room temperature and partitioned between EtOAc and water. The EtOAc layer was dried over MgSO4, filtered and concentrated under vacuum. The resulting residue was tritutrated with ethyl ether to give 9.00 g of 1-(3-(thiophen-2-yl)phenyl)urea.

reactant | 3-Bromopheylurea | 10.40 g | BrC=1C=C(C=CC1)NC(=O)N | C7H7BrN2O
reactant | 2-thiopheneboronic acid | 8.20 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 2.0 M, 100 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 300 mL | C(OC)COC | C4H10O2
product | 1-(3-(thiophen-2-yl)phenyl)urea | 9.00 g | S1C(=CC=C1)C=1C=C(C=CC1)NC(=O)N | C11H10N2OS
